US07964608B2
3-sec-Butyl-1-cyclopentyl-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione (25 mg) was prepared from 4-cyclopentylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester (0.10 mmol) and 2-butyl isocyanate (0.4 mmol) following general procedure C. LCMS: m/z 368 [M+1]+.

reactant | 4-cyclopentylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 0.10 mmol | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NC1CCCC1)OC | C18H22N2O3
reactant | 2-butyl isocyanate | 0.4 mmol | CC(CC)N=C=O | C5H9NO
product | 3-sec-Butyl-1-cyclopentyl-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione | 25 mg | C(C)(CC)N1C(N(C2=C(C=NC=3C(=CC=CC23)OC)C1=O)C1CCCC1)=O | C21H25N3O3
